US07470689B2
a) 1-(2-Ethylaminopyrimidin-4-yl)ethanone
A mixture of 6 g of 1-dimethylamino-4,4-dimethoxypent-1-en-3-one, 3.96 of N-ethylguanidine hydrochloride and 26 ml of 20% strength ethanolic sodium ethoxide solution is heated under reflux for 2 hours. After cooling, the solid is filtered off with suction, and the filtrate is concentrated in vacuo and mixed with 20 ml of trifluoroacetic acid and 2 ml of water and stirred at room temperature overnight. Then 50 ml of water are added, the pH is adjusted to 10 with sodium carbonate, and the mixture is extracted twice with 25 ml of ethyl acetate each time. The organic phase is dried over sodium sulfate and concentrated. The resulting oily residue is purified by column chromatography (silica gel, mobile phase: methylene chloride:methanol=98:2).

reactant | 1-dimethylamino-4,4-dimethoxypent-1-en-3-one | 6 g | CN(C=CC(C(C)(OC)OC)=O)C | C9H17NO3
reactant | N-ethylguanidine hydrochloride | Cl.C(C)NC(=N)N
reactant | sodium ethoxide | [O-]CC.[Na+]
product | 1-(2-Ethylaminopyrimidin-4-yl)ethanone | C(C)NC1=NC=CC(=N1)C(C)=O | C8H11N3O
